US05151214
6 ml of n-hexanol was added dropwise to a mixture of 40 g of 50% sodium hydroxide solution, 24 g of (R)-epichlorohydrine as used in the Synthetic Example 1 and 400 mg of tetrabutylammoniumhydrogen sulfate, under cooling at 20° to 25° C. The reaction solution was stirred at the same temperature for 3 hours and added with water, and then the product was extracted into ether. The extracted product was distilled under reduced pressure to obtain 3.35 g of (R)-n-hexylglycidylether.

reactant | n-hexanol | 6 ml | C(CCCCC)O | C6H14O
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | (R)-epichlorohydrine | 24 g | C(Cl)[C@H]1CO1 | C3H5ClO
catalyst | tetrabutylammoniumhydrogen sulfate | 400 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | (R)-n-hexylglycidylether | 3.35 g | C(CCCCC)OC[C@H]1CO1 | C9H18O2
